US06916819B2
A mixture of 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one (0.1 g, 0.27 mmol) and tris(dimethylamino)methane (0.077 g, 0.54 mmol) is heated at 60° C. in a sealed tube for 6 hours. The volatile material is removed in vacuo. EtOH (5 mL) and hydrazine acetate (1.1 mmol) are added to the residue. The mixture is heated at 120° C. for 2 hours. The solvent is removed. NaHCO3 (aq.) (10 mL) and DCM (30 mL) are added to the residue. The organic layer is separated and the aqueous layer is extracted with DCM (2×15 mL). The combined organic layers are dried and the solvent removed. The crude is purified by PTLC (ethyl acetate/Hexanes 1:1) to give 5-bromo-1-ethyl-2-[3-(3-fluoro-phenyl)-1H-pyrazol-4-ylmethyl]-1H-benzoimidazole as a solid. LRMS: calcd 399.3, found [M+1] 401.0.

reactant | 3-(5-Bromo-1-ethyl-1H-benzoimidazol-2-yl)-1-(3-fluoro-phenyl)-propan-1-one | 0.27 mmol, 0.1 g | BrC1=CC2=C(N(C(=N2)CCC(=O)C2=CC(=CC=C2)F)CC)C=C1 | C18H16BrFN2O
reactant | tris(dimethylamino)methane | 0.54 mmol, 0.077 g | CN(C)C(N(C)C)N(C)C | C7H19N3
reactant | hydrazine acetate | 1.1 mmol | C(C)(=O)O.NN
solvent | EtOH | 5 mL | CCO | C2H6O
product | 5-bromo-1-ethyl-2-[3-(3-fluoro-phenyl)-1H-pyrazol-4-ylmethyl]-1H-benzoimidazole | BrC1=CC2=C(N(C(=N2)CC=2C(=NNC2)C2=CC(=CC=C2)F)CC)C=C1 | C19H16BrFN4
